US06248765B1
3-(1H-Imidazol-4-yl)propyl 2-methylpropyl ether
5 mmol of sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate and 5 mmol of 2-methylpropane chloride are treated as described in Example 5.

reactant | sodium 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanolate | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCC[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | 2-methylpropane chloride | 5 mmol | [Cl-].CC(C)C
product | 3-(1H-Imidazol-4-yl)propyl 2-methylpropyl ether | CC(COCCCC=1N=CNC1)C | C10H18N2O
